* C:\Users\ryano\OneDrive\Desktop\LogicLibraryAlt\GateTest.asc
X§X1 A B ANDx ANDx
X§X3 A B NAND NAND
X§X4 A B C NAND3 NAND3
X§X5 A B NOR NOR
X§X6 A B C NOR3 NOR3
X§X7 A B ORx ORx
V3 C 0 PULSE(0 5 0 1n 1n 4m 8m)
V1 B 0 PULSE(0 5 0 1n 1n 2m 4m)
V2 A 0 PULSE(0 5 0 1n 1n 1m 2m)
X§X2 A INVERT INVERT
X§X8 A Din Q Qbar dff
V4 Din 0 PULSE(0 5 0.2m 1n 1n 4m 8m)
X§X9 A B C MUX MUX

* block symbol definitions
.subckt ANDx A B ANDx
X§X1 A B N001 NAND
X§X2 N001 ANDx INVERT
.ends ANDx

.subckt NAND A B NAND
M1 NAND A N001 N001 Sp2025P
M2 NAND B N001 N001 Sp2025P
M3 NAND A N002 N002 Sp2025N
M4 N002 B 0 0 Sp2025N
V1 N001 0 5
.ends NAND

.subckt NAND3 A B C NAND3
X§X1 A B N001 NAND
X§X2 N002 C NAND3 NAND
X§X3 N001 N002 INVERT
.ends NAND3

.subckt NOR A B NOR
M1 NOR A N002 N002 Sp2025P
M2 N002 B N001 N001 Sp2025P
M3 NOR A 0 0 Sp2025N
M4 NOR B 0 0 Sp2025N
V1 N001 0 5
.ends NOR

.subckt NOR3 A B C NOR3
X§X1 A B N001 NOR
X§X2 N002 C NOR3 NOR
X§X3 N001 N002 INVERT
.ends NOR3

.subckt ORx A B ORx
X§X1 A B N001 NOR
X§X2 N001 ORx INVERT
.ends ORx

.subckt INVERT A NA
M1 NA A N001 N001 Sp2025P
M4 NA A 0 0 Sp2025N
V1 N001 0 5
.ends INVERT

.subckt dff CLK D Q Qbar
X§X1 D CLK CLKbar Amid NAND3
X§X2 CLKbar CLK Dbar Bmid NAND3
X§X5 N004 CLKbar INVERT
X§X6 N003 N004 INVERT
X§X7 N002 N003 INVERT
X§X8 N001 N002 INVERT
X§X9 CLK N001 INVERT
X§X3 Amid Qbar Q NAND
X§X4 Q Bmid Qbar NAND
X§X10 D Dbar INVERT
.ends dff

.subckt MUX A B Sel MUX
X§X1 A Sel N001 NAND
X§X2 N003 B N002 NAND
X§X3 N001 N002 MUX NAND
X§X4 Sel N003 INVERT
.ends MUX

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ryano\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 8m
* .MODEL Sp2025N NMOS (LEVEL=7  CGSO=3.4E-10 CGDO=3.4E-10 CJ=6.8e-4 \n+CJSW=1.26e-10 MJ=0.5 MJSW=0.5  \n+CGBO=5.75E-10 RSH=33.8 CJ=6.8e-4 MJ=0.5  CJSW=1.26e-10\n+MJSW=0.5)\n.MODEL Sp2025P PMOS (LEVEL=7  CGDO=5.3752E-11 CGSO=5.3752E-11\n+CGBO=3.3650E-10 CJ=4.8447E-04 MJ=0.5027 CJSW=1.6457E-10 \n+MJSW=0.217168 )
.inc ./ModelSp2025.txt
.backanno
.end
