* C:\Users\ryano\OneDrive\Desktop\LogicLibraryAlt\half_adder.asc
X§X1 NC_01 NC_02 NC_03 NAND
X§X2 NC_04 NC_05 NC_06 NAND
X§X3 NC_07 NC_08 INVERT
X§X4 NC_09 NC_10 INVERT
X§X5 NC_11 NC_12 NC_13 ANDx
X§X7 NC_14 NC_15 NC_16 ANDx

* block symbol definitions
.subckt NAND A B NAND
M1 NAND A N001 N001 Sp2025P
M2 NAND B N001 N001 Sp2025P
M3 NAND A N002 N002 Sp2025N
M4 N002 B 0 0 Sp2025N
V1 N001 0 5
.ends NAND

.subckt INVERT A NA
M1 NA A N001 N001 Sp2025P
M4 NA A 0 0 Sp2025N
V1 N001 0 5
.ends INVERT

.subckt ANDx A B ANDx
X§X1 A B N001 NAND
X§X2 N001 ANDx INVERT
.ends ANDx

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ryano\AppData\Local\LTspice\lib\cmp\standard.mos
.backanno
.end
